US20010020034A1
To a mixture of (4-carbamoyl-3-pentylsulfanyl-isothiazol-5-yl)-carbamic acid phenyl ester (0.10 g, 0.27 mmol) and 1 mL of tetrahydrofuran was added N-3-aminopropylpyrollidine (0.175 g, 1.4 mmol). After stirring for 72 hours at ambient temperature, the mixture was poured into 1M NaOH, extracted twice with ethyl acetate, and the combined organic layers were dried over Na2SO4, filtered and concentrated. Purification of the residue by radial chromatography (2 mm plate, 3% ethanol-CH2Cl2— 30% ethanol-CH2Cl2 containing 0.5% NH4OH), followed by concentration and trituration of the residue with ether-hexane afforded 0.076 g (78%) of 3-pentylsulfanyl-5-[3-(3-pyrrolidin-1-yl-propyl)-ureido]-isothiazole-4-carboxylic acid amide as a colorless solid 1H NMR (400 MHz, CDCl3) δ 7.57 (bs, 1H), 7.06 (bs, 2H), 3.35 (m, 2H), 3.26(m, 2H), 2.53 (t, 2H, J=6.8Hz), 2.47(m, 4H), 1.73 (m, 8H), 1.4-1.2 (m, 4H), 0.88 (t, 3H, J=7.2 Hz) ppm; MS (APCl, m/z): 400 [M+H]+.

reactant | (4-carbamoyl-3-pentylsulfanyl-isothiazol-5-yl)-carbamic acid phenyl ester | 0.27 mmol, 0.10 g | C1(=CC=CC=C1)OC(NC1=C(C(=NS1)SCCCCC)C(N)=O)=O | C16H19N3O3S2
reactant | N-3-aminopropylpyrollidine | 1.4 mmol, 0.175 g | NCCCN1CCCC1 | C7H16N2
reactant | NaOH | 1M | [OH-].[Na+]
solvent | tetrahydrofuran | 1 mL | O1CCCC1 | C4H8O
product | 3-pentylsulfanyl-5-[3-(3-pyrrolidin-1-yl-propyl)-ureido]-isothiazole-4-carboxylic acid amide | 0.076 g, 78% | C(CCCC)SC1=NSC(=C1C(=O)N)NC(=O)NCCCN1CCCC1 | C17H29N5O2S2
